US07446118B2
To a room temperature solution of 3-chloro-1H-indazole (10.0 g, 65.5 mmol) in AcOH (250 ml) was added Br2 (3.54 ml, 68.8 mmol) dropwise. The reaction mixture was stirred at room temperature for 18 hours, then diluted with EtOAc (500 ml), washed with aqueous NaOH solution (10%), saturated aqueous NaHCO3 and brine. The organic layer was dried over MgSO4, filtered, concentrated, and the residue was recrystallized from toluene. The solid was washed with hexanes and dried in vacuo affording 5-Bromo-3-chloro-1H-indazole CCXIV as a white solid (54% yield).

reactant | 3-chloro-1H-indazole | 65.5 mmol, 10.0 g | ClC1=NNC2=CC=CC=C12 | C7H5ClN2
reactant | Br2 | 68.8 mmol, 3.54 ml | BrBr | Br2
solvent | AcOH | 250 ml | CC(=O)O | C2H4O2
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 5-Bromo-3-chloro-1H-indazole | BrC=1C=C2C(=NNC2=CC1)Cl | C7H4BrClN2
